* Z:\mnt\design.r\spice\examples\1683.asc
V1 IN 0 48
C1 IN 0 39µ V=63
XU1 N012 N008 N006 N018 N011 MP_01 N015 N017 N021 NC_02 0 N023 N022 N007 N020 N019 N004 N013 N016 0 LT1683
D1 0 N006 BZX84C8V2L
R1 N007 0 976
R2 IN N007 23.2K
C3 N015 0 1.3n
R3 N017 0 16.9K
R4 N019 0 7K
C4 N022 0 5n
C5 N023 0 .22µ Rser=15K Cpar=22n
M§Q1 N009 N012 N018 N018 Si7802DN
C6 N005 N008 5p
L1 IN N001 1m Rser=.6
L2 N009 IN 1m Rser=.6
M§Q2 N001 N016 N018 N018 Si7802DN
C7 N014 N013 5p
R5 N018 0 50m
D2 N002 N003 MBR20100CT
C8 OUT 0 150µ Rser=20m
R6 N021 0 2.5K
R7 OUT N021 7.5K
L3 0 N002 423µ Rser=.5
L4 N010 0 423µ Rser=.5
C9 N001 N014 10p
C10 N014 0 30p
C11 N009 N005 10p
C12 N005 0 30p
R8 N011 0 500
V2 N004 0 10
R9 N020 0 7K
D3 N010 N003 MBR20100CT
Rload OUT 0 2.5
L5 N003 OUT 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
K1 L1 L2 L3 L4 1
.lib LT1683.sub
.backanno
.end
